US04833169
2 g (5.6 mmol) of cis-4-hydroxy-1-[(5-methoxybenzocyclobuten-1-yl)methyl]-piperidine-3-carboxylic acid ethyl ester hydrochloride and 20 ml of acetic anhydride are heated under reflux in 100 ml of toluene for 18 hours. 200 ml of ice-water are then added to the cooled reaction mixture and the whole is stirred for 30 minutes. The reaction mixture is rendered alkaline to pH 10 with 2N sodium hydroxide solution and the toluene phase is then separated off. The aqueous phase is extracted twice with dichloromethane. The organic phases are combined, dried over sodium sulphate and concentrated by evaporation. The crude product so obtained is purified by chromatography over the 10-fold amount of silica gel with diethyl ether as eluant. The purified product is converted into the hydrochloride and crystallised from ethanol/diethyl ether. Cis-4-acetoxy-1-[(5-methoxybenzocyclobuten-1-yl)methyl]-piperidine-3-carboxylic acid ethyl ester hydrochloride of m.p. 202°-203° is obtained.

reactant | cis-4-hydroxy-1-[(5-methoxybenzocyclobuten-1-yl)methyl]-piperidine-3-carboxylic acid ethyl ester hydrochloride | 5.6 mmol, 2 g | Cl.C(C)OC(=O)[C@@H]1CN(CC[C@@H]1O)CC1=CC2=C1C=C(C=C2)OC
reactant | acetic anhydride | 20 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | Cis-4-acetoxy-1-[(5-methoxybenzocyclobuten-1-yl)methyl]-piperidine-3-carboxylic acid ethyl ester hydrochloride | Cl.C(C)OC(=O)[C@@H]1CN(CC[C@@H]1OC(C)=O)CC1=CC2=C1C=C(C=C2)OC | InChI=1S/C20H25NO5.ClH/c1-4-25-20(23)18-12-21(8-7-19(18)26-13(2)22)11-15-9-14-5-6-16(24-3)10-17(14)15;/h5-6,9-10,18-19H,4,7-8,11-12H2,1-3H3;1H/t18-,19+;/m1./s1
